US04367346
There is disclosed a process for the preparation of long-chain carbon compounds characterized by: (a) reacting cyclododecanone with morpholine in the presence of a catalyst to form 1-morpholino-1-cyclododecene; (b) separating the 1-morpholino-1-cyclododecene and reacting it with an organic acid halide of 15-20 carbon atoms in the presence of a tertiary amine in an organic solvent while maintaining the reaction temperature at 0°-10° C. followed by (c) hydrolysis under acidic conditions, thereafter (d) separating the 2-n-alkyl-cyclotetradecanedione and reacting with a solution of alkali metal hydroxide and diethylene glycol at 90°-110° C. followed by (e) addition of hydrazine hydrate and the reaction mixture is refluxed at 125°-135° C. thereafter (f) the distillate is removed until the temperature of the reaction mixture climbs to 190°-210° C. where it is refluxed for 3 to 20 hours with slow stirring, and then (g) cooled to 110°-125° C. followed by addition of hot (80°-95° C.) water with rapid stirring followed by (h) neutralization with aqueous acid to a pH of 2 to yield the carboxylic acid which is separated and purified by recrystallization which is then (i) dissolved in tetrahydrofuran under an inert atmosphere and has added thereto the reducing agent, borane-methyl sulfide complex with stirring and heated to 40°-65° C. for 2 to 3 hours before cooling to ambient temperature followed by the sequential addition of methanol and water to quench excess borane reagent followed by (k) separation and purification of the long chain alcohol.

reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-morpholino-1-cyclododecene | O1CCN(CC1)C1=CCCCCCCCCCC1 | C16H29NO
